US04447260
To a mixture of toluene (50 ml) and pyridine (4.2 g) cooled at 0° C., thionyl chloride (1.3 g) was added, and a solution of 1-methylcyclopropanecarboxylic acid (1.0 g) in toluene was dropwise added thereto while stirring. A solution of 3-methyl-4-difluoromethoxyaniline (1.75 g) in toluene was dropwise added thereto. After the dropwise addition was completed, stirring was continued at room temperature for 3 hours. The reaction mixture was admixed with 5% hydrochloric acid (20 ml). The organic solvent layer was separated, washed with 1% sodium hydroxide solution and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to give crude crystals (2.2 g). The crude crystals were recrystallized from ethanol to give N-(3-methyl-4-difluoromethoxyphenyl)-1-methylcyclopropanecarboxamide (1.8 g). M.P., 68°-69° C.

reactant | thionyl chloride | 1.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methylcyclopropanecarboxylic acid | 1.0 g | CC1(CC1)C(=O)O | C5H8O2
reactant | 3-methyl-4-difluoromethoxyaniline | 1.75 g | CC=1C=C(N)C=CC1OC(F)F | C8H9F2NO
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 4.2 g | N1=CC=CC=C1 | C5H5N
product | N-(3-methyl-4-difluoromethoxyphenyl)-1-methylcyclopropanecarboxamide | 1.8 g | CC=1C=C(C=CC1OC(F)F)NC(=O)C1(CC1)C | C13H15F2NO2
